// Generated for: spectre
// Generated on: Nov 13 13:20:27 2018
// Design library name: ECE_6240_Digial
// Design cell name: hw2_2_MUX_tb
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters p5vonly=0
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06P.m"

// Library name: ECE_6240_Digial
// Cell name: hw1_3_CMOS_2_Input_NOR
// View name: schematic
subckt hw1_3_CMOS_2_Input_NOR A B Out
    N1 (Out B 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (Out A 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P0 (net2 A vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (Out B net2 vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends hw1_3_CMOS_2_Input_NOR
// End of subcircuit definition.

// Library name: ECE_6240_Digial
// Cell name: hw2_2_XNOR
// View name: schematic
subckt hw2_2_XNOR A B Out
    I3 (net9 net8 Out) hw1_3_CMOS_2_Input_NOR
    I2 (net7 B net8) hw1_3_CMOS_2_Input_NOR
    I1 (A net7 net9) hw1_3_CMOS_2_Input_NOR
    I0 (A B net7) hw1_3_CMOS_2_Input_NOR
ends hw2_2_XNOR
// End of subcircuit definition.

// Library name: ECE_6240_Digial
// Cell name: hw2_2_MUX_tb
// View name: schematic
V0 (vdd! 0) vsource type=dc dc=5
I7 (A B Out) hw2_2_XNOR
C0 (Out 0) capacitor c=4p m=1
V1 (A 0) vsource type=pulse val0=0 val1=5 period=50u delay=0 rise=500f \
        fall=500f width=25u
V2 (B 0) vsource type=pulse val0=0 val1=5 period=100u delay=0 rise=500f \
        fall=500f width=50u
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=200u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
